US07528147B2
A suspension of 0.14 g of 2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile in 1.3 ml of a 5 N aqueous potassium hydroxide solution and 5 ml of methanol is brought to a temperature in the region of 60° C. for approximately 30 minutes. After returning to around 20° C., the insoluble material is filter-dried, and washed with water until a neutral pH is obtained. The insoluble material is purified by flash chromatography on a silica column [eluent: dichloromethane/methanol (98/2 by volume)]. 0.05 g of 2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile is obtained in the form of a solid, the characteristics of which are as follows:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 0.14 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC2=C(N=CC=C2C#N)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H22N4O4S
reactant | potassium hydroxide | 5 N | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 0.05 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC2=C(N=CC=C2C#N)N1 | C19H16N4O2
